US06333324B1
A mixture of 4-(2-thienyl)phenol (1.30 g), chloroacetonitrile (668 mg) and potassium carbonate (1.53 g) in DMF (7 ml) was stirred for 5 hours at ambient temperature. The mixture was diluted with H2O and the separated solid was recovered to give 1.45 g of 2-(4-cyanomethoxyphenyl)thiophene.

reactant | 4-(2-thienyl)phenol | 1.30 g | S1C(=CC=C1)C1=CC=C(C=C1)O | C10H8OS
reactant | chloroacetonitrile | 668 mg | ClCC#N | C2H2ClN
reactant | potassium carbonate | 1.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-(4-cyanomethoxyphenyl)thiophene | 1.45 g | C(#N)COC1=CC=C(C=C1)C=1SC=CC1 | C12H9NOS
